US07081454B2
3-(6-Bromo-4-methyl-1H-benzimidazol-2-yl)-4-chloro-1H-pyridin-2-one:
The suspension of 6-bromo-2-(4-iodo-2-methoxy-pyridin-3-yl)-4-methyl-1H-benzimidazole (4 g, 9.03 mmol) and 60 mL of 4 M HCl in dioxane was heated to 80° C. for 6 h and cooled to room temperature. The precipitate was filtered and dried to yield the title compound (3.0 g, 100%) as a brown powder. The crude product was used for the next step without purification. 1H NMR (300 MHz, CD3OD) δ 7.55 (1H, s), 7.42 (1H, d, J=6.0 Hz), 7.17 (1H, s), 6.91 (1H, d, J=6.0 Hz), 2.55 (3H, s). LCMS (M+H)+ m/z 338 (t=1.33 min.).

reactant | 6-bromo-2-(4-iodo-2-methoxy-pyridin-3-yl)-4-methyl-1H-benzimidazole | 9.03 mmol, 4 g | BrC=1C=C(C2=C(NC(=N2)C=2C(=NC=CC2I)OC)C1)C | C14H11BrIN3O
reactant | HCl | 4 M, 60 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(6-Bromo-4-methyl-1H-benzimidazol-2-yl)-4-chloro-1H-pyridin-2-one | 3.0 g, 100% | BrC=1C=C(C2=C(NC(=N2)C=2C(NC=CC2Cl)=O)C1)C | C13H9BrClN3O
